US04028370
Synthesis of 2-methoxypyrazolo[1,5-a]pyridine
Sodium (92 mg) was dissolved in 5 ml of absolute methyl alcohol with moderate cooling. To this solution 2-hydroxypyrazolo[1,5-a]pyridine (500 mg) was added and then dimethyl sulfate (500 mg) was added. The mixture was stirred for 30 min. at room temperature and refluxed for 8 hr. The reaction mixture was concentrated to remove methyl alcohol, and water was added to the residue. The solution was extracted with n-hexane, and the n-hexane solution was dried over sodium sulfate. The dried n-hexane solution was concentrated and the residue was distilled to give 280 mg of oily product under reduced pressure.

reactant | Sodium | 92 mg | [Na] | Na
reactant | 2-hydroxypyrazolo[1,5-a]pyridine | 500 mg | OC1=NN2C(C=CC=C2)=C1 | C7H6N2O
reactant | dimethyl sulfate | 500 mg | S(=O)(=O)(OC)OC | C2H6O4S
solvent | methyl alcohol | 5 ml | CO | CH4O
product | 2-methoxypyrazolo[1,5-a]pyridine | 280 mg | COC1=NN2C(C=CC=C2)=C1 | C8H8N2O
